US07285569B2
5-Methoxy-1H-pyrazole-3-carboxylic acid ethyl ester
5-Hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester (300 mg, 1.92 mmol) was dissolved in anhydrous N,N-dimethylformamide (DMF) (35 ml) and cesium carbonate (626 mg, 1.92 mmol) was added. The resulting suspension was treated with iodomethane (120 μl, 273 mg, 1.92 mmol) and stirred for 12 h at room temperature. The reaction mixture was quenched with saturated potassium hydrogen sulfate solution and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with water (50 ml) and brine (50 ml). The extract was dried over sodium sulfate, evaporated and the crude product was purified by column chromatography on silica gel. Elution with ethyl acetate/n-heptane (1:3) yielded 124 mg (38%) of a white solid.

reactant | 5-Hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester | 1.92 mmol, 300 mg | C(C)OC(=O)C1=NNC(=C1)O | C6H8N2O3
reactant | cesium carbonate | 1.92 mmol, 626 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 1.92 mmol, 120 μl, 273 mg | IC | CH3I
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 5-Methoxy-1H-pyrazole-3-carboxylic acid ethyl ester | 124 mg, 38% | C(C)OC(=O)C1=NNC(=C1)OC | C7H10N2O3
